US20010056188A1
1) 3-(4-Chlorophenylamino)-2-methylsulfonyl-3-methylsulfanyl-propenenitrile
To a solution of methanesulfonylacetonitrile (0.55 g, 4.9 mmol) in dry acetone (5 ml) first dry potassium carbonate (1.28 g, 9.3 mmol) and then 4-chlorophenyl isothiocyanate (0.78 g, 4.6 mmol) were added. The resulting mixture was stirred at room temperature under nitrogen for 22 h, and then filtered. To the filtrate methyl iodide (0.86 ml, 13.9 mmol) was added. The mixture was stirred at room temperature for 2 h. The precipitate was filtered off, the filtrate was concentrated. The residue was taken up into dichloromethane and water. The organic layer was washed with water (2×), dried (sodium sulfate) and concentrated. Crystallisation from ethyl acetate gave 1.114 g (80%) of the title compound. 1H NMR (200 MHz, CDCl3): δ=2.25 (s, 3H), 3.20 /s, 3H), 7.25 (d, 2H), 7.41 (d, 2H), 9.70 (br s, 1H); EI SP/MS: 302 (M+), 304 (M+2).

reactant | methanesulfonylacetonitrile | 4.9 mmol, 0.55 g | CS(=O)(=O)CC#N | C3H5NO2S
reactant | potassium carbonate | 9.3 mmol, 1.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chlorophenyl isothiocyanate | 4.6 mmol, 0.78 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
reactant | methyl iodide | 13.9 mmol, 0.86 ml | CI | CH3I
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 3-(4-Chlorophenylamino)-2-methylsulfonyl-3-methylsulfanyl-propenenitrile | 1.114 g, 80% | ClC1=CC=C(C=C1)NC(=C(C#N)S(=O)(=O)C)SC | C11H11ClN2O2S2
